US04391814
A solution of 3.93 g of triphenylphosphine in 80 ml of absolute acetonitrile was added dropwise under stirring at 25° C. under argon to a solution of 1.789 g of 1-p-chlorobenzoyl-2-methyl-5-methoxyindol-3-acetic acid, 0.305 g of ethanolamine, 2.02 g of triethylamine, and 3.176 g of carbon tetrachloride in 100 ml of absolute acetonitrile, for a period of three and a half hours. After 18 hours at 24° C., the mixture was evaporated under vacuum and the crystalline residue agitated with 200 ml of ethyl ether and 75 ml of 2 N aqueous sodium hydroxide solution. After separation of the aqueous phase and secondary extraction with three times 40 ml of ethyl ether, the combined ether extracts were dried (Na2SO4) and concentrated, during which step triphenylphosphine oxide was crystallized. The filtrate was evaporated and chromatographed with toluene on 210 g of aluminum oxide, activity stage IV (alkaline; Woelm); after a forerun of 300 ml, the subsequent 800 ml of eluate yielded 1.38g of a light-yellow, oily (4-chlorophenyl)-[5-methoxy-2-methyl-3-(oxazolin-2-ylmethyl)-1-indolyl]ketone.

reactant | triphenylphosphine | 3.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-p-chlorobenzoyl-2-methyl-5-methoxyindol-3-acetic acid | 1.789 g | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)O)C)C=C1 | C19H16ClNO4
reactant | ethanolamine | 0.305 g | C(O)CN | C2H7NO
reactant | triethylamine | 2.02 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | carbon tetrachloride | 3.176 g | C(Cl)(Cl)(Cl)Cl | CCl4
product | (4-chlorophenyl)-[5-methoxy-2-methyl-3-(oxazolin-2-ylmethyl)-1-indolyl]ketone | ClC1=CC=C(C=C1)C(=O)N1C(=C(C2=CC(=CC=C12)OC)CC=1OCCN1)C | C21H19ClN2O3
